US09193689B2
A stirred solution of 4-fluoro-2-methyl-benzaldehyde (20 g, 144.9 mmol) and malonic acid (30.1 g, 289.8 mmol) in pyridine (100 mL) was heated to 50° C. Piperidine (10 mL) was added and the reaction mixture was heated at 70° C. for 18 h. The reaction mixture was cooled RT and poured into chilled aqueous 1N HCl solution (1500 mL), the resulting precipitate was filtered and washed with petroleum ether 60-80 and dried in vacuo to obtain (E)-3-(4-fluoro-2-methylphenyl)acrylic acid (18 g, 69%) as an off white solid.

reactant | 4-fluoro-2-methyl-benzaldehyde | 144.9 mmol, 20 g | FC1=CC(=C(C=O)C=C1)C | C8H7FO
reactant | malonic acid | 289.8 mmol, 30.1 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | Piperidine | 10 mL | N1CCCCC1 | C5H11N
reactant | HCl | 1N, 1500 mL | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (E)-3-(4-fluoro-2-methylphenyl)acrylic acid | 18 g, 69% | FC1=CC(=C(C=C1)/C=C/C(=O)O)C | C10H9FO2
